US08431695B2
Step 4: Preparation of tert-butyl 4-(4-amino-6-cyanopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,6-dihydropyridine-1(2H)-carboxylate
To the solution of 4-amino-7-bromopyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile (1.00 g, 4.20 mmol) and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate (1.95 g, 6.30 mmol) in DMF (50 mL) and DME (6.9 mL), was added sodium carbonate in water (2M, 6.3 mL). The mixture was degassed for 15 min. Dichloro[bis(diphenylphosphino)ferrocene]palladium(II) CH2Cl2 adduct (307 mg, 0.42 mmol) was added. The mixture was stirred at 80° C. under nitrogen overnight then cooled to rt. The mixture was filtered through Celite®, washing with EtOAc (100 mL) then 20% MeOH/DCM (100 mL). The filtrate was concentrated to dryness. ISCO® purification (20% EtOAc/hexane then EtOAc) afforded title compound (1.0 g, 69.4%). 1H NMR (400 MHz, DMSO-d6) δ 8.20 (s, 2H), 7.97 (s, 1H), 7.34 (s, 1H), 6.38 (t, 1H), 4.02 (d, 2H), 3.58 (t, 2H), 2.62 (t, 2H), 1.41 (s, 9H); LC-MS m/z [M+H]+ 341.2, RT 3.16 min.

reactant | 4-amino-7-bromopyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile | 4.20 mmol, 1.00 g | NC1=NC=NN2C1=CC(=C2Br)C#N | C7H4BrN5
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 6.30 mmol, 1.95 g | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DME | 6.9 mL | COCCOC | C4H10O2
solvent | water | 2M, 6.3 mL | O | H2O
product | tert-butyl 4-(4-amino-6-cyanopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 1.0 g, 69.4% | NC1=NC=NN2C1=CC(=C2C=2CCN(CC2)C(=O)OC(C)(C)C)C#N | C17H20N6O2
